US04250186
A mixture of 8 gm (0.032 mol) of 2-(3,4,5-trimethoxy-phenylimino)-imidazolidine base and 150 ml of 48% of hydrobromic acid was refluced for 5 hours on an oil bath. Thereafter, the reaction mixture was evaporated in vacuo to half its original volume and allowed to stand overnight in the refrigerator. The amorphous precipitate which had formed was isolated and dried, yielding 7.3 gm (78.6% of theory) of 2-(3,4,5-trihydroxy-phenylimino)-imidazolidine hydrobromide, m.p. 204°-206° C., Rf -value 0.3 in mobile phase 75 parts sec.butanol, 15 parts formic acid, 10 parts water. Carrier: silicagel, visualization; potassium iodoplatinate.

reactant | 2-(3,4,5-trimethoxy-phenylimino)-imidazolidine | 0.032 mol, 8 gm | COC=1C=C(C=C(C1OC)OC)N=C1NCCN1 | C12H17N3O3
reactant | hydrobromic acid | 150 ml | Br | BrH
product | 2-(3,4,5-trihydroxy-phenylimino)-imidazolidine hydrobromide | 7.3 gm, 78.6% | Br.OC=1C=C(C=C(C1O)O)N=C1NCCN1 | InChI=1S/C9H11N3O3.BrH/c13-6-3-5(4-7(14)8(6)15)12-9-10-1-2-11-9;/h3-4,13-15H,1-2H2,(H2,10,11,12);1H
